US07601714B2
To a solution of {4-[(2-chloro-5-nitro-pyrimidin-4-ylamino)-methyl]-cyclohexyl}-carbamic acid tert-butyl ester (150 mg, 0.39 mmol) in DMF (1 mL) were added a solution of (2-isopropoxy-pyridin-3-yl)-methylamine (180 mg, 1.1 mmol) obtained above in DMF (1 mL) followed by DIPEA (135 μL, 0.78 mmol). The reaction mixture was stirred at room temperature for 30 min. The reaction mixture was diluted with ethyl acetate and washed with saturated NaHCO3 and water (×4). The organic phase was dried over Na2SO4 and concentrated. The resulting residue was purified by silica gel prep TLC using 95:5 CH2Cl2:MeOH as an eluent to afford [4-({2-[(2-isopropoxy-pyridin-3-ylmethyl)-amino]-5-nitro-pyrimidin-4-ylamino}-methyl)-cyclohexyl]-carbamic acid tert-butyl ester which was dissolved in CH2Cl2 and TFA was added. The reaction mixture was stirred at room temperature for 2 h. The mixture was then treated with 1M Na2CO3 and extracted with CH2Cl2. MeOH was added to the mixture during the extraction to solublize the product into the organic phase. The combined organic phase was dried over Na2SO4 and concentrated. The resulting residue was purified by silica gel prep TLC using 10:1:0.2 CH2Cl2:MeOH:NH4OH as an eluent to afford 75 mg of the title compound as a pale yellow solid (46%); m/z 416.4 [M+1]+.

reactant | {4-[(2-chloro-5-nitro-pyrimidin-4-ylamino)-methyl]-cyclohexyl}-carbamic acid tert-butyl ester | 0.39 mmol, 150 mg | C(C)(C)(C)OC(NC1CCC(CC1)CNC1=NC(=NC=C1[N+](=O)[O-])Cl)=O | C16H24ClN5O4
reactant | (2-isopropoxy-pyridin-3-yl)-methylamine | 1.1 mmol, 180 mg | C(C)(C)OC1=NC=CC=C1NC | C9H14N2O
reactant | DIPEA | 0.78 mmol, 135 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [4-({2-[(2-isopropoxy-pyridin-3-ylmethyl)-amino]-5-nitro-pyrimidin-4-ylamino}-methyl)-cyclohexyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CCC(CC1)CNC1=NC(=NC=C1[N+](=O)[O-])NCC=1C(=NC=CC1)OC(C)C)=O | C25H37N7O5
